US07173028B2
2-(3,4-dichlorophenylamino)-4-chloro-5-trifluoromethyl-pyrimidine
4.86 g of 3,4-dichloroaniline dissolved in 10 ml of dioxane are added to 6.51 g of 2,4-dichloro-5-trifluoromethyl-pyrimidine in 40 ml of dioxane at ambient temperature. Then 6 ml of 5 M potassium carbonate solution are added and the mixture is stirred for three days at ambient temperature. It is then filtered through Alox B (20 ml) and washed with dioxane. The filtrate is concentrated by evaporation, the residue dissolved in 50 ml methylene chloride and this solution is cooled in a bath of dry ice and acetone. The precipitate is suction filtered and the filtrate is cooled again. After suction filtering again the precipitates are combined and the filtrate is concentrated by evaporation. The residue is separated by chromatography through an RP 18 column (gradient: acetonitrile: H2O=20:80 to 80:20).

reactant | 3,4-dichloroaniline | 4.86 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 2,4-dichloro-5-trifluoromethyl-pyrimidine | 6.51 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | potassium carbonate | 5 M, 6 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-(3,4-dichlorophenylamino)-4-chloro-5-trifluoromethyl-pyrimidine | ClC=1C=C(C=CC1Cl)NC1=NC=C(C(=N1)Cl)C(F)(F)F | C11H5Cl3F3N3
